US08124766B2
The above (S)-3-(5-nitropyridine-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester (2.59 g, 9.25 mmol) was suspended in ethanol (50 mL) and THF (10 mL) was added. The mixture was gently heated to give a clear solution and 10% palladium on carbon (250 mg) was added. The mixture was hydrogenated at 45 psi for 4 hrs and then filtered. The filtrate was concentrated to give a purple solid as (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester (2.3 g, 100% yield). LCMS for C12H18N4O2 calcd (m/e) 250, obsd 251 (M+H).

reactant | (S)-3-(5-nitropyridine-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester | 9.25 mmol, 2.59 g | C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)[N+](=O)[O-] | C12H16N4O4
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester | 2.3 g, 100% yield | C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)N | C12H18N4O2
